US04699910
4.2. N-(3-Trifluoromethyl-phenyl)-N'-propargyl-piperazine hydrochloride
3.2 g (0.012 mol) of N-(3-trifluoromethyl-phenyl)-piperazine hydrochloride, 0.9 g (0.012 mol) of propargyl chloride and 2.5 g (0.024 mol) of sodium carbonate were heated at 60° C. in 50 ml of absolute acetonitrile while stirring. Over a period of 15 hours, an additional 0.34 g (0.0046 mol) of propargyl chloride and 0.5 g (0.0046 mol) of sodium carbonate were added. The inorganic salts were removed by suction filtration, and the filtrate was evaporated under reduced pressure. The evaporation residue was dissolved in toluene, and the product solution was extracted with the calculated quantity of dilute hydrochloric acid. The aqueous phase was made alkaline with soda, and the base was extracted with ether. After drying with sodium sulfate, the organice phase was evaporated under reduced pressure, and the base was converted into its hydrochloride in conventional manner. White crystals from acetonitrile, melting point 218°-219° C. (decomposition). Yield: 2.7 g (73.8% of theory). The existence of these compounds was confirmed by elemental and spectrum analysis.

reactant | N-(3-trifluoromethyl-phenyl)-piperazine hydrochloride | 0.012 mol, 3.2 g | Cl.FC(C=1C=C(C=CC1)N1CCNCC1)(F)F
reactant | propargyl chloride | 0.012 mol, 0.9 g | C(C#C)Cl | C3H3Cl
reactant | sodium carbonate | 0.024 mol, 2.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | propargyl chloride | 0.0046 mol, 0.34 g | C(C#C)Cl | C3H3Cl
reactant | sodium carbonate | 0.0046 mol, 0.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-(3-Trifluoromethyl-phenyl)-N'-propargyl-piperazine hydrochloride | Cl.FC(C=1C=C(C=CC1)N1CCN(CC1)CC#C)(F)F | InChI=1S/C14H15F3N2.ClH/c1-2-6-18-7-9-19(10-8-18)13-5-3-4-12(11-13)14(15,16)17;/h1,3-5,11H,6-10H2;1H
